US05349090
Reactor. A 12-liter, 4-neck, jacketed flask with bottom drain valve is charged with 4-hydroxyacetophenone (4-HAP, 619 g, 4.6 moles), H2O (2622 g, 145.7 moles) and HCl (887 g of a 32% aqueous solution, 7.8 moles). The flask is equipped with a mechanical stirrer (glass shaft, TFE stir paddle), gas inlet tube adaptor with subsurface sparge tube, nitrogen inlet, thermowell, and gas outlet adaptor. The reactor is connected to the generator using 1/4" OD TFE tubing which is piped such that the stream of NOCl can be diverted to a scrubber which consists of a 500 ml vacuum flask with rubber stopper drilled to accommodate the 1/4" tubing. Similarly, the outlet from the reactor is connected to a separate scrubber. The scrubbers are charged with 250 ml of a 20% NaOH aqueous solution. The reaction flask contents are stirred and flask is purged with nitrogen to remove residual air. The temperature of the reaction flask is set to 45° C. using a chiller/circulator. Once the NaNO2 is added to the generator, the nitrogen purge is stopped and the gas bubbles in the scrubber can be observed to coincide with the rate of the NaNO2 addition. By lowering the set-point of the chiller, the temperature of the exothermic reaction is maintained below 50° C. The 4-HAP is observed to go into solution when about 2/3 of the NaNO2 has been added to the generator. After the addition is complete, the NOCl stream is diverted to the scrubber and the nitrogen sparge is resumed in the reactor (subsurface) to remove excess NOCl for thirty (30) minutes. The chiller is then set to cool the stirred reactor contents to 10° C. During this cool-down, the tan-colored hydroxyphenyl glyoxal (HPGO) crystals fall out of solution. The slurry is drained and filtered through a fritted coarse Buchner to afford a tan solid (961 g, 54.6% pure, 69% isolated/84.2% total yield HPGO).

reactant | 4-hydroxyacetophenone | 4.6 moles, 619 g | CC(=O)C=1C=CC(=CC1)O | C8H8O2
reactant | H2O | 145.7 moles, 2622 g | O | H2O
reactant | HCl | Cl | ClH
reactant | NaNO2 | N(=O)[O-].[Na+]
product | HPGO | OC(C(=O)C1=CC=CC=C1)=O | C8H6O3
